US04155913
2 g (0.0069 mol) of 5-(o-chlorophenyl)-2-hydrazino-3H-thieno[2,3-e]-1,4-diazepine are suspended in 200 ml of dry methylene chloride and treated with 10 g of sodium bicarbonate. The solution is cooled to 0° C. and treated with stirring with 0.8 ml of acetyl chloride. After 45 minutes, the solid material is filtered off from the solution which is then shaken out twice with 100 ml of water each time. After drying over sodium sulphate, the organic phase is evaporated and treated with 100 ml of butanol, whereupon 20 ml thereof are evaporated off under reduced pressure. The solution is refluxed for 8 hours and evaporated under vacuum. After trituration of the oily residue with ethanol, the resulting crystals are refluxed with a small amount of ethanol, left to crystallize in a refrigerator, filtered under a vacuum and dried to yield 4-(o-chlorophenyl)-9-methyl-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine, melting point 221°-223° C.

reactant | 5-(o-chlorophenyl)-2-hydrazino-3H-thieno[2,3-e]-1,4-diazepine | 0.0069 mol, 2 g | ClC1=C(C=CC=C1)C=1C2=C(N=C(CN1)NN)SC=C2 | C13H11ClN4S
reactant | sodium bicarbonate | 10 g | C([O-])(O)=O.[Na+]
reactant | acetyl chloride | 0.8 ml | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-(o-chlorophenyl)-9-methyl-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=CS3)C(=NN2)C | C15H11ClN4S
